US08703805B2
Preparation of 1-(5-{5-[2-(2-Chloro-phenyl)-5-trifluoromethyl-2H-pyrazol-3-yl]-thiophen-2-yl}-pyridin-2-yl)-piperazine
4-(5-{5-[2-(2-Chloro-phenyl)-5-trifluoromethyl-2H-pyrazol-3-yl]-thiophen-2-yl}-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester (196 mg, 0.33 mmol) was mixed with 4 mL 50% trifluoromethylacetic acid in dichloromethane, and stirred at room temperature for 2 hrs. All solvent was removed; the residue was redissolved in dichloromethane and neutralized to pH 7 by saturated NaHCO3. The organic layer was washed with brine, dried over Na2SO4, and concentrated in vacuo to give a solid that was washed several times with dichloromethane to give yellow solid (75 mg, 47% yield). 1H-NMR (400 MHz, CDCl3): δ 3.32-329 (m, 4H), 3.94-3.91 (m, 4H), 6.67 (d, J=8.8, 1H), 6.79 (d, J=3.8, 1H), 6.87 (s, 1H), 7.02 (d, J=3.8, 1H), 7.57-7.45 (m, 4H), 7.63 (dd, J=8.8, J=2.5, 1H), 8.34 (d, J=2.2, 1H). MS (ES) 490.3, 492.3, [M+H]+.

reactant | 4-(5-{5-[2-(2-Chloro-phenyl)-5-trifluoromethyl-2H-pyrazol-3-yl]-thiophen-2-yl}-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.33 mmol, 196 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1)C=1SC(=CC1)C=1N(N=C(C1)C(F)(F)F)C1=C(C=CC=C1)Cl | C28H27ClF3N5O2S
reactant | trifluoromethylacetic acid | 4 mL | FC(F)(F)CC(=O)O | C3H3F3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(5-{5-[2-(2-Chloro-phenyl)-5-trifluoromethyl-2H-pyrazol-3-yl]-thiophen-2-yl}-pyridin-2-yl)-piperazine | 75 mg, 47% yield | ClC1=C(C=CC=C1)N1N=C(C=C1C1=CC=C(S1)C=1C=CC(=NC1)N1CCNCC1)C(F)(F)F | C23H19ClF3N5S
